Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Biliary duct dilatation/transfer for ERCP
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ with history of alcohol abuse complicated by 
presumed cirrhosis, neuropathy, and withdrawal seizures who 
initially presented to an outside hospital after a fall, found 
to have common bile duct dilatation, now transferred for 
evaluation by the ERCP service. She is a limited historian, but 
recalls slipping in the context of descending a staircase with 
the assistance of her cane, falling without headstrike or loss 
of consciousness 3 days ago. She attributes the fall, which was 
unwitnessed, to unsteadiness in the context of chronic alcoholic 
neuropathy, for which she requires a cane at baseline, denying 
prodromal symptoms, including lightheadedness, chest pain, 
palpitations, or involuntary movements; there was no subsequent 
confusion per her recollection. She does note that in the days 
preceding her fall she had been experiencing loose stools, up to 
5 per day and tinged with "flecks" of bright red blood, in 
association with nausea and occasional small-volume nonbloody, 
nonbilious emesis. Others in her household experienced a similar 
gastrointestinal illness, and her symptoms reportedly had 
resolved by the time of her arrival to the outside hospital. She 
endorses generally poor appetite, intermittent epistaxis and 
easy bruising, chronic minimal nonproductive cough, and perhaps 
recently increased abdominal distention, but denies fevers, 
chills, sweats, meningismus, URI symptoms, chest pain, shortness 
of breath, abdominal pain, urinary symptoms, or focal weakness. 
She believes that she has been thinking clearly. She last drank 
1 pint of vodka 5 days ago and denies withdrawal symptoms prior 
to admission to ___.  
She initially presented to ___ on ___, 
where she was found to be intoxicated with alcohol and treated 
supportively, including with a CIWA scale for impending 
withdrawal.  
CXR and cervical spine CT were unrevealing. After abdominal 
ultrasound and MRCP revealed common bile duct dilatation, 
presumably due to the presence of a stone, she was transferred 
to ___ for evaluation by the ERCP service. Of note, abdominal 
ultrasound was without significant ascites. Her stay was 
otherwise complicated by normocytic anemia nadiring at Hgb/Hct 
of ___, prompting administration of 2 units packed red blood 
cells on ___, with appropriate response to 10.4/30.4. She 
also received vancomycin and ceftazidime empirically for 
possible pneumonia in the setting of presumed atelectatic 
changes on CXR, and occasional abdominal pain was attributed to 
alcoholic pancreatitis (lipase of 511 at discharge) in the 
absence of fevers, hemodynamic instability, or other clinical 
signs of infection. Blood and urine cultures were not obtained.  

On arrival to the floor, she is sleepy, but easily arousable and 
denies discomfort of any kind, including abdominal pain.  

 
Past Medical History:
Alcohol abuse complicated by presumed cirrhosis, neuropathy, and 
withdrawal seizures  
Anemia  
Hypothyroidism  
Depression  
Hypertension  

 
Social History:
___
Family History:
None
 
Physical Exam:
Admission physical:

VS: 98.8, 107/65, 87, 20, 98% RA  
General: Sleeping, but easily arousable to voice  
HEENT: PERRL, EOMI, no significant scleral icterus appreciable 
in dim lighting  
Neck: Supple  
CV: RRR, no m/r/g  
Lungs: Breathing comfortably, no accessory muscle use, faint 
crackles at left base clear with cough  
Abdomen: +BS, softly distended, slightly tympanitic, nontender 
to deep palpation, no guarding/rebound, no clear shifting 
dullness/fluid wave  
GU: No CVAT  
Ext: Warm, well-perfused, no edema, no asterixis  
Neuro: Alert, oriented to person and hospital, CNs grossly 
intact, strength ___ throughout, light touch sensation grossly 
intact throughout  
Skin: No significant jaundice appreciable in dim lighting  

Discharge physical:

VS: Tm 99, Tc 98, 94/58, 75, 18, 100% R
I/O: (120/-) past 8 hr  
General: awake, no acute distress 
HEENT: PERRL, EOMI, no significant scleral icterus 
Neck: Supple  
CV: RRR, no m/r/g  
Lungs: Breathing comfortably, no accessory muscle use, CTAB
Abdomen: +BS, distended but not overly firm, no epigastric 
tenderness to palpation 
GU: No CVAT  
Ext: Warm, well-perfused, no edema, no asterixis  
Neuro: Alert, oriented x 3, conversing well, no asterixis. 
Skin: No significant jaundice 

 
Pertinent Results:
Admission labs:

___ 01:50AM BLOOD WBC-7.9 RBC-3.45* Hgb-10.9* Hct-34.1* 
MCV-99* MCH-31.5 MCHC-31.9 RDW-20.0* Plt ___
___ 01:50AM BLOOD ___ PTT-43.8* ___
___ 01:50AM BLOOD ALT-26 AST-164* AlkPhos-144* TotBili-7.3*
___ 01:50AM BLOOD Calcium-8.2* Phos-2.5* Mg-1.5*

Micro:

Imaging:

___ MRCP

IMPRESSION:  
  
1.  Detection of tiny stones within the biliary tree might be 
limited by 
motion artifact as well as a trace of ascites fluid. 
Cholelithiasis, but no 
definite choledocholithiasis.  There is no significant biliary 
ductal dilation 
seen on this examination. 
  
2.  Hepatomegaly, and mild-moderately fatty liver. Heterogeneity 
of the liver 
enhancement is non-mass-like and nonspecific. 
  
3.  Hypoenhancing nodules are seen in the subcapsular portion of 
segment 8 of the liver.  While they are not particularly 
suspicious for hepatocellular carcinoma, recommend continued 
hepatic surveillance given the chronic liver disease. 
  
4.  There appears to be a filling defect within the left gastric 
artery, which supplies a replaced left hepatic artery. In 
addition, there appears to be marked stenosis at the origin of 
the right hepatic artery, which is replaced and arising from the 
SMA. 
  
5.  Changes of marked portal hypertension, with trace pleural 
effusions and trace ascites also noted. 

Abdominal ultrasound (___):  
1. Heterogenous liver consistent with cirrhosis. No focal liver 
lesion. Subcapsular structures in the right lobe on CT ___ 
not visible.  
2. Retrograde flow in main portal vein.  
3. Varices with no significant ascites. Small amount of pelvic 
free fluid.  
4. Biliary ductal dilatation new since ___, with no 
etiology identified by ultrasound.  
5. Distended gallbladder with sludge and possible small 
gallstones. Mild gallbladder wall thickening as present on the 
last ultrasound.  
6. Spleen is 15.5cm in length and measured 13.5cm on ___.
  
___ CXR

FINDINGS:  No prior studies for comparison. 
  
Heart size is within normal limits.  There are no signs for 
overt pulmonary 
edema or pleural effusions.  Hazy opacity at the left base may 
represent 
atelectasis or early infiltrate.  Bony structures are intact.  
There are no pneumothoraces.

Micro:

Blood and urine: negative/ngtd

Discharge labs:

___ 05:15AM BLOOD WBC-5.9 RBC-2.99* Hgb-9.6* Hct-31.0* 
MCV-104* MCH-32.2* MCHC-31.1 RDW-19.6* Plt ___
___ 05:15AM BLOOD ___
___ 05:15AM BLOOD Glucose-131* UreaN-11 Creat-0.5 Na-135 
K-4.4 Cl-102 HCO3-26 AnGap-11
___ 05:15AM BLOOD ALT-38 AST-161* AlkPhos-128* TotBili-5.9*
___ 05:15AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ with history of alcohol abuse complicated by 
presumed cirrhosis, neuropathy, and withdrawal seizures who 
initially presented to an outside hospital after a fall, found 
to have common bile duct dilatation, now transferred for 
evaluation by the ERCP service.  

# Alcoholic hepatitis: Transaminitis on presentation to ___ 
___ is consistent with an alcoholic pattern of 
liver injury, with discriminant function of 37.9 at that time, 
suggesting that she may benefit from glucocorticoid therapy once 
infection has been excluded. As DF in the ______ and not rapidly 
improving, patient started on prednisone on ___ with plan to 
complete a 28 day course. No ascites to tap, no evidence of 
infectious process.
 
# Common bile duct dilatation: She was found to have common bile 
duct distention to 7mm at the outside hospital on abdominal 
ultrasound and MRCP, presumed secondary to presence of a stone. 
Per ERCP recs, MRCP performed on ___: no biliary dilatation 
seen, therefore ultimately did not need ERCP. Treated for 
alcoholic hepatitis per above.   
 
# Fall: Fall preceding presentation to ___ 
seems likely mechanical in the setting of known alcoholic 
neuropathy without prodromal symptoms to suggest alternative 
etiology. Patient was actively intoxicated at admission. She 
does report chronically poor oral intake and a recent diarrheal 
illness, since resolved, raising the possibility of contributory 
orthostasis. Gave IVF, encouraged po intake.  
 
# Alcohol abuse: She discloses significant alcohol consumption, 
having been sober intermittently in the past following 
detoxification stays. Last drink was 5 days ago, with 
intermittent scoring on CIWA scale at ___. She 
did not score on CIWA at ___. Continued folate, thiamine, 
multivitamin. Social work saw the patient and the patient stated 
that she was already set up with AA and outpatient services. She 
did not want an inpatient or outpatient rehab stay.    

# Alcoholic cirrhosis: She has radiographic evidence of 
cirrhosis on ___ imaging, as well as varices 
of uncertain grade. She is presently sleepy, but without signs 
of hepatic encephalopathy, outside hospital ultrasound was 
without tappable ascites, and she has had no clear signs of 
bleeding. She declines prior decompensation by hepatic 
encephalopathy, spontaneous bacterial peritonitis, or variceal 
bleed. She was set up with hepatology f/u at discharge as she 
does not have a primary hepatologist and has reported varices 
but is not on nadolol. 
 
# Normocytic anemia: Normocytic anemia nadiring at Hgb/Hct of 
___, prompting administration of 2 units packed red blood 
cells on ___, with appropriate response to 10.4/30.4. 
Anemia likely reflects alcohol toxicity and sequestration. B12 
and folate were reassuring at the outside hospital. There is low 
suspicion for hemolysis, given transfusion-responsiveness, and 
she has had no signs of active bleeding. Hct remained stable 
during hospital stay.
 
# Thrombocytopenia: Platelet count declined from 180 on 
admission to ___ to 88 by the time of 
transfer, likely reflecting IV hydration superimposed on chronic 
sequestration. There is low suspicion for DIC or HITT in the 
absence of documented heparin exposure. Platelet count remained 
stable.  
 
# Coagulopathy: INR has remained in the 2.4-2.5 range at ___ 
___, likely reflecting synthetic dysfunction 
coupled with poor nutrition. As above, there is low suspicion 
for consumptive coagulopathy. She was given po vitamin K to 
correct her INR. 
  
# Hypothyroidism: TSH was 9.89 at ___, perhaps 
reflecting sick euthyroidism, in which TSH may be elevated 
following an initial phase of suppression. Upon calling the 
patient's pharmacy, however, patient has not been filling her 
levothyroxine prescription. She was restarted on her home dose 
thyroxine. 

# History of withdrawal seizures: Continued home levetiracetam.
  
# Depression: Continued home fluoxetine, hydroxyzine, and 
quetiapine.
  
# Neuropathy: Presumed secondary to alcoholism. Continued home 
gabapentin.  

# Hypertension: Not currently on medications

# Incidentaloma: Right liver lesion noted incidentally on ___ 
___ imaging, with CT or MRI advised in follow-up, 
no duration specified. 
   
#CODE: Full (confirmed)  
#CONTACT: Mother and HCP ___: ___ 

Transitional issues:
-Patient will need labs every week: CBC, full chemistry panel, 
coags, LFT's
-She should have a TSH rechecked as an outpatient as she had 
stopped taking her levothyroxine prior to admission to the 
hospital. She should also have a f/u CT or MRI given an 
incidental R liver lesion noted at ___ no 
duration specified per radiology.
-Patient will continue a 28-total day course of prednisone for 
alcoholic hepatitis.
-Per social work, patient is already set up with AA and sobriety 
programs as an outpatient
-Patient will need to establish care with hepatology and has 
been scheduled an appointment with the ___ on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LeVETiracetam 500 mg PO BID 
2. QUEtiapine Fumarate 100 mg PO QHS 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Gabapentin 600 mg PO TID 
5. Fluoxetine 20 mg PO DAILY 
6. HydrOXYzine 50 mg PO QHS 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
2. Gabapentin 600 mg PO TID 
3. HydrOXYzine 50 mg PO QHS 
4. LeVETiracetam 500 mg PO BID 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. QUEtiapine Fumarate 100 mg PO QHS 
RX *quetiapine [Seroquel] 100 mg 1 tablet(s) by mouth every 
evening Disp #*30 Tablet Refills:*0
7. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
9. Pantoprazole 40 mg PO Q24H 

 
RX *pantoprazole [Protonix] 40 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
10. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. PredniSONE 40 mg PO DAILY Duration: 28 Days 
First day ___, last day ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*26 Tablet 
Refills:*0
12. Outpatient Lab Work
Please obtain a CBC, CMP (full chemistry panel), coags, and 
LFT's on a weekly basis. Please fax results to the Liver Clinic: 
___

ICD-9: Cirrhosis 571

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
alcoholic hepatitis 
cirrhosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for alcoholic hepatitis.  This is an 
inflammatory condition that affects the liver and can be fatal.  
It is caused by the toxic effects of alcohol.  Your liver is 
scarred and cirrhotic.  As such, it is essential that you quit 
drinking.  We have provided you with resources to help you quit. 
 If you cannot maintain sobriety, you will not be able to get on 
the liver transplant list in the future.  

Please see attached for a list of your medications and follow up 
appointments. 
 
Followup Instructions:
___